data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_443957_1,[C:1]1([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[C@@:2]([O:7][C:3]([H:10])([H:11])[H:12])([H:9])[N:6]1[H:8]>>[C:1](/[C:2](=[N:6]\[H:8])[H:9])([C:4]([H:13])([H:14])[H:15])([C:5]([H:16])([H:17])[H:18])[O:7][C:3]([H:10])([H:11])[H:12],57.22423499998314
MR_66994_1,[C:1](/[C:3]([N:5]([H:8])[H:9])=[N:6]\[H:10])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]/[H:11])([H:12])[H:13]>>[C:1](=[C:4]([C:2]([H:14])([H:15])[H:16])[N:7](/[C:3]([N:5]([H:8])[H:9])=[N:6]\[H:10])[H:11])([H:12])[H:13],71.61657499999293
MR_305477_0,[C:1]([C:4]([N:2]([N:3]([N:5]([H:10])[H:11])[H:9])[O:6][H:8])=[O:7])([H:12])([H:13])[H:14]>>[C:1]([N:2]([C:4]([N:3]([N:5]([H:10])[H:11])[H:9])=[O:7])[O:6][H:8])([H:12])([H:13])[H:14],65.9571525000139
MR_602006_0,[C:1](/[C:4]([C:3]([H:16])([H:17])[H:18])=[N:7]\[C:2]([H:13])([H:14])[H:15])([N:5]([H:10])[H:11])([N:6]([H:9])[H:12])[H:8]>>[C@:1]1([N:6]([H:9])[H:12])([H:8])[C@:4]([C:3]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[N:7]1[C:2]([H:13])([H:14])[H:15],63.5469249999997
MR_136282_1,[C:1]([C:3]([N:5]([H:11])[H:12])=[O:8])([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([O:7][H:9])[H:10]>>[C:1]1([O:7][H:9])([H:10])[C:3]([C:4]([C:2]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([N:5]([H:11])[H:12])[O:8]1,71.58018000001348
MR_187745_0,[C:1]([N:4]([C:2]([H:13])([H:14])[H:15])/[C:6](=[N:7]/[C:3]([H:16])([H:17])[H:18])[H:10])([N:5]([H:8])[H:9])([H:11])[H:12]>>[C:1]([N:5]([H:8])[H:9])([N:7]([C:3]([H:16])([H:17])[H:18])/[C:6](=[N:4]\[C:2]([H:13])([H:14])[H:15])[H:10])([H:11])[H:12],54.86734499997695
MR_283480_1,[N:1]1([H:10])[C:3]2([C:2]([O:6][H:9])=[O:8])[C:5]([H:12])=[C:4]([H:11])[N:7]12>>[n:1]1([H:10])[c:3]([C:2]([O:6][H:9])=[O:8])[c:5]([H:12])[c:4]([H:11])[n:7]1,26.80679999998389
MR_242433_1,[C:1]([N:4]([H:11])[H:12])([O:7][H:9])(/[N:8]=[C:3](/[C:2]([H:14])([H:15])[H:16])[C:5](=[C:6]([H:17])[H:18])[H:13])[H:10]>>[C:1](\[N:4]([H:11])[H:12])(=[N:8]/[C:3]([C:2]([H:14])([H:15])[H:16])([C:5](=[C:6]([H:17])[H:18])[H:13])[O:7][H:9])[H:10],44.46151249999659
MR_257156_0,[C:1]([N:3]([H:11])[H:12])(=[C:4](\[O:6][H:8])[H:13])/[C:5](=[N:7]\[N:2]([H:9])[H:10])[H:14]>>[C:1]1([N:3]([H:11])[H:12])=[C:5]([H:14])[N:7]([N:2]([H:9])[H:10])[C:4]1([O:6][H:8])[H:13],57.58630250003208
MR_382628_0,[C:1]([N:3]([N:4]([N:6][O:7])[H:9])[C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:10])([H:11])[H:12]>>[C:1]([n:3]1[n:4]([H:9])[n:6]1[O:7][C:5]([C:2]([H:13])([H:14])[H:15])=[O:8])([H:10])([H:11])[H:12],73.29576499999803
MR_89002_0,[N:1]1([N:3]([H:8])[H:9])[C:2]([N:7][H:10])[O:6][C:4]([H:11])=[C:5]1[H:12]>>[N:1](\[N:3]([H:8])[H:9])=[C:5](/[C@@:4]1([H:11])/[C:2](=[N:7]\[H:10])[O:6]1)[H:12],73.06045249998576
MR_125240_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[C:7]2([N:5]([H:9])[C:2]([H:11])([H:12])[N:6]2[H:10])[O:8]1>>[C:1]1([C:3]([H:13])([H:14])[H:15])([C:4]([H:16])([H:17])[H:18])[N:6]([H:10])[C:2]([H:11])([H:12])[N:5]([H:9])[C:7]1=[O:8],36.88507750000653
MR_92676_2,[C:1]([C:3]([H:16])([H:17])[H:18])([O:7]/[C:4]([C:2]([H:13])([H:14])[H:15])=[C:6](/[N:5]([H:8])[H:9])[H:12])([H:10])[H:11]>>[C:1]([C:3]([H:16])([H:17])[H:18])([C@:4]1([C:2]([H:13])([H:14])[H:15])[C@:6]([N:5]([H:8])[H:9])([H:12])[O:7]1)([H:10])[H:11],70.69477750000175
MR_313409_0,[C:1]([C:3]([C:4]([C:2]([H:10])([H:11])[H:12])=[C:5]([H:13])[H:14])=[O:6])([H:7])([H:8])[H:9]>>[C:1]([C:3]1=[C:4]([C:2]([H:10])([H:11])[H:12])[C:5]([H:13])([H:14])[O:6]1)([H:7])([H:8])[H:9],55.92593750001512
MR_510699_1,[C:1]([C:2]([C:4](=[O:7])[H:12])=[O:6])([N:3]([H:10])[H:11])([O:5][H:8])[H:9]>>[C:1]([N:3]([H:10])[H:11])([C:4]([C:2](=[O:6])[H:12])=[O:7])([O:5][H:8])[H:9],47.05308750001663
MR_44555_0,[C@@:1]1([O:5][H:6])([H:7])[C@:2]([C:3]([H:8])([H:10])[H:11])([H:9])[O:4]1>>[C:1]([O:4][C:2](=[C:3]([H:10])[H:11])[H:9])([O:5][H:6])([H:7])[H:8],56.05143749998362
MR_149693_1,[C@@:1]([C@@:2]([C:3]([H:16])([H:17])[H:18])([O:8][H:12])[H:15])([C:4]([C:5](=[C:6]([H:19])[H:20])[O:9][H:13])=[O:10])([O:7][H:11])[H:14]>>[C@@:1]([C:4]([C@@:2]([C:3]([H:16])([H:17])[H:18])([O:8][H:12])[H:15])=[O:10])([C:5](=[C:6]([H:19])[H:20])[O:9][H:13])([O:7][H:11])[H:14],62.24611750000236
MR_158396_1,[C:1](/[C:3]([N:2]([O:5][H:7])[H:9])=[C:4](\[O:6][H:8])[H:10])([H:11])([H:12])[H:13]>>[C:1](/[C:3](=[N:2]/[H:9])[C:4]([O:5][H:7])([O:6][H:8])[H:10])([H:11])([H:12])[H:13],32.23592999997365
MR_701824_0,[C:1](/[N:8]=[C:3](\[C:2]([H:14])([H:15])[H:16])[O:7][C:4]([N:5]([H:9])[H:10])=[C:6]([H:17])[H:18])([H:11])([H:12])[H:13]>>[C:1]([N:8]([C:3]([C:2]([H:14])([H:15])[H:16])=[O:7])[C:4]([N:5]([H:9])[H:10])=[C:6]([H:17])[H:18])([H:11])([H:12])[H:13],39.69564999997303
MR_342459_2,[C:1]([C:2]([C:3]([C:6]([H:21])([H:22])[H:23])([C:7]([H:24])([H:25])[H:26])[H:13])([O:9][H:11])[H:12])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:8](=[O:10])[H:14]>>[C:1]([C:2](=[O:9])[H:12])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:8]([C:3]([C:6]([H:21])([H:22])[H:23])([C:7]([H:24])([H:25])[H:26])[H:13])([O:10][H:11])[H:14],64.93997499997818
